US04824958
Methyl 3-hydroxy-4-chloro-5-methyl-2-thiophenecarboxylate.
Prepared by the method described in Example 1 from ethyl α-chloroacetoacetate (59 g, 0.35 moles), methyl thioglycolate (102 g, 0.70 moles) and sodium (19.7 g, 0.86 moles). The product is obtained from the crystalline precipitate by fractional recrystallization from isopropanol to give 2.8 g; mp 105°-107° C.

reactant | ethyl α-chloroacetoacetate | 0.35 moles, 59 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | methyl thioglycolate | 0.70 moles, 102 g | C(CS)(=O)OC | C3H6O2S
reactant | sodium | 0.86 moles, 19.7 g | [Na] | Na
solvent | isopropanol | C(C)(C)O | C3H8O
product | Methyl 3-hydroxy-4-chloro-5-methyl-2-thiophenecarboxylate | OC1=C(SC(=C1Cl)C)C(=O)OC | C7H7ClO3S
